2197-02-09 07:59:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year-old man with a history of DM, CAD sp PCI, large infrarenal AAA
   with bilateral large common iliac aneurysms, s/p right hypogastric
   coiled embolization on [**2197-1-17**], recent hospital admission and
   discharge [**2196-2-5**] for Fournier's gangrene requiring debridement and
   suprapubic catheter placement. Admitted with an upper GI bleed with SBP
   80s.  In ED with chest pain and EKG showing anterolateral ST
   depressions, both of which resolved with blood transfusions.  An
   abdominal CT with IV contrast  was performed with no evidence of
   aorto-enteric fistula.
   24 Hour Events:
 EGD performed in OR with patient intubated.  Notable for 2 duodenal
   ulcers with visible vessels and overlying clot, injected with
   epinephrine and clipped
Hct 22 to 27 with 5U PRBC, to 25.9 with 1U PRBC, received 2 more units
   PRBC with repeat Hct 29.8
no further hematemesis and BRBPR
hypercarbia when asleep, did not require NIPPV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2197-2-9**] 01:57 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   NAC 600mg [**Hospital1 **] x 2 doses
   Hycosamine prn bladder spasm
   RISS
   Simvastatin 20mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-9**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 91 (83 - 112) bpm
   BP: 93/63(70) {89/55(63) - 107/63(71)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,495 mL
                                                                  1,783 mL
   PO:
           TF:
   IVF:
                                                                  1,154 mL
                                                                  1,025 mL
   Blood products:
                                                                  1,342 mL
                                                                    758 mL
   Total out:
                                                                  1,180 mL
                                                                  1,680 mL
   Urine:
                                                                  1,180 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/46/122/25/0
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal).  Crescendo decrescendo
   murmur loudest at RUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent.  Extremities warm
   Skin:  Not assessed
   Neuro: A&Ox3.  Alert and answering questions appropriately.
   Neurologic: Responds to: Not assessed, Oriented (to): time, place,
   person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   123 K/uL
   90 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.9 mEq/L
   32 mg/dL
   113 mEq/L
   142 mEq/L
   29.8 %
   7.1 K/uL
        [image002.jpg]
   Cr 1.6 on [**2-7**]
                             [**2197-2-8**]  06:14 PM
                             [**2197-2-8**]  09:08 PM
                             [**2197-2-8**]  09:29 PM
                             [**2197-2-9**]  02:24 AM
                             [**2197-2-9**]  02:34 AM
                             [**2197-2-9**]  03:58 AM
                             [**2197-2-9**]  05:18 AM
                             [**2197-2-9**]  05:38 AM
   WBC
   9.2
   7.1
   Hct
   20
   28
   27.0
   25.9
   29.8
   Plt
   154
   123
   Cr
   1.3
   1.3
   TropT
   <0.01
   0.03
   TCO2
   23
   27
   26
   26
   Glucose
   90
   89
   90
   Other labs: PT / PTT / INR:12.9/26.9/1.1, CK / CKMB /
   Troponin-T:35/4/0.03, Differential-Neuts:73.7 %, Lymph:16.9 %, Mono:6.4
   %, Eos:2.3 %, Fibrinogen:447 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Troponin 0.03
   ABG 7.35/46/122
   Assessment and Plan
   UGIB due to duodenal ulcers with high risk of rebleeding
   -continue protonix drip for now
   -q4hr CBC with goal Hct>30 given CAD with ST depressions
   -brisk urine output suggests he is adequately volume resuscitated
   -continue large bore IV access
   -patient denies any NSAID use besides ASA
   -npo for now
   -general surgery and IR also following
   -followup final read of abdominal CT
   Chest pain and dynamic ST depressions likely due to demand ischemia
   -recent TTE shows moderate AS ([**Location (un) 549**] 1.0cm2) with EF>22%
   -continue trending cardiac enzymes until it has peaked
   -simvastatin, if hypertensive will resume low dose metoprolol
   -hold ASA for now
   [**Last Name (un) 461**]
s gangrene
   -continue levaquin until [**2196-2-13**], will redoes to 250mg IV daily
   ICU Care
   Nutrition: npo
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2197-2-8**] 06:49 PM
   16 Gauge - [**2197-2-8**] 06:51 PM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: protonix drip
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan with the following modifications/emphasis:
   Patient with large GI bleed from duodenal ulcer requiring 8 Units of
   PRBCs
 hematocrit has now been stable without transfusion and bleeding
   was stopped endoscopically.
   Gen: awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Neuro: awake, alert
   Labs as above plus additional hct of 30% and therefore stable
   (29.6->30)
   A:
   1)       GI bleed (duodenal ulcer)
   2)       Myocardial Ischemia
 demand
   3)       Fourneirs Gangrene
   Plan:
   1)       Continue to monitor hematocrit
   2)       IR/surgery/GI following
   3)       Monitor in ICU overnight given severity of bleed
 if remains
   stable, can go to floor tomorrow
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2197-2-9**] 06:46 PM ------

2197-02-10 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- HCT remained stable; no further episodes of bleeding
   -- switched from ppi gtt to ppi [**Hospital1 **] IV
 ARTERIAL LINE - START [**2197-2-9**] 08:02 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2197-2-10**] 12:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-2-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-10**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 79 (74 - 90) bpm
   BP: 93/63(70) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,846 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,088 mL
                                                                     50 mL
   Blood products:
                                                                    758 mL
   Total out:
                                                                  3,990 mL
                                                                    970 mL
   Urine:
                                                                  3,990 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,144 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   10.4 g/dL
   90 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.9 mEq/L
   32 mg/dL
   113 mEq/L
   142 mEq/L
   30.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2197-2-9**]  02:24 AM
                             [**2197-2-9**]  02:34 AM
                             [**2197-2-9**]  03:58 AM
                             [**2197-2-9**]  05:18 AM
                             [**2197-2-9**]  05:38 AM
                             [**2197-2-9**]  08:50 AM
                             [**2197-2-9**]  02:04 PM
                             [**2197-2-9**]  06:07 PM
                             [**2197-2-10**]  12:45 AM
                             [**2197-2-10**]  06:06 AM
   WBC
   7.1
   6.4
   Hct
   25.9
   29.8
   31.1
   30.5
   30.5
   30.8
   30.5
   Plt
   123
   124
   Cr
   1.3
   TropT
   0.03
   0.03
   TCO2
   27
   26
   26
   Glucose
   90
   Other labs: PT / PTT / INR:12.5/27.4/1.1, CK / CKMB /
   Troponin-T:22/4/0.03, Differential-Neuts:73.7 %, Lymph:16.9 %, Mono:6.4
   %, Eos:2.3 %, Fibrinogen:447 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8807**] is a 67 year-old man with a history of a large infrarenal
   AAA with bilateral large common iliac aneurysms, s/p right hypogastric
   coiled embolization on [**2197-1-17**], who presents with hematemesis and is
   admitted to the MICU for further management.
   # GIB: Likely upper GIB but would also consider brisk lower bleed.
   Differential diagnosis includes ulcerative disease, gastritis, AVM,
   Dieulafoy lesion, and bowel carcinoma.  No evidence of aortoenteric
   fistula on abd CT.  Received 2u PRBC and 2u FFP in ED and had chest
   pain/T wave changes on EKG consistent with ischemia.
   - tranfuse additional 2 units on arrival to floor
   - Hct goal of 30, transfused platelets given ASA history
   - 3 PIVs in place
   - hold on FFP transfusion pending coags recheck
   - GI plans to scope tonight
   - continue PPI gtt
   - check hct q4h
   - gen [**Doctor First Name 91**] and IR c/s
   - trend ionized calcium
   - f/u final abd CT read
   - vascular reccs
   # CAD s/p PCI:  Likely demand ischemia in setting of anemia, CP now
   resolved.
   - GIB mgmnt as above
   - cycle CEs
   - restart metoprolol when stable
   - cont statin
   - hold aspirin
   # Infrarenal AAA with b/l common iliac aneurysms: No evidence of
   aorto-enteric fistula. R hypogastric (internal iliac artery) coiled
   embolization on [**2197-1-17**]
   - vascular reccs
   - restart metoprolol when stable
   # Fournier's Gangrene: Had periurethral abscesses requiring operative
   debridment and suprapubic urinary catheter placement [**2197-1-10**].
   - cont levoflox for 10 day course ([**Date range (1) 11092**])
   - notify urology of admission
   # Hypertension:
   - restart metoprolol when stable
   # DM:
   - HISS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-2-8**] 06:47 PM
   16 Gauge - [**2197-2-8**] 06:51 PM
   Arterial Line - [**2197-2-9**] 08:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2197-02-10 07:48:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year-old man with a history of DM, CAD sp PCI, large infrarenal AAA
   with bilateral large common iliac aneurysms, s/p right hypogastric
   coiled embolization on [**2197-1-17**], recent hospital admission and
   discharge [**2196-2-5**] for Fournier's gangrene requiring debridement and
   suprapubic catheter placement. Admitted with an upper GI bleed and
   hypotension with EGD showing duodenal ulcers.
   24 Hour Events:
 Hct remained stable, no further episodes of bleeding
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2197-2-10**] 12:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-2-9**] 08:00 PM
   Other medications:
   Protonix 40mg IV q12hr
   Levofloxacin 250 IV daily
   Simvastatin 20mg daily
   RISS
   -hycosamine prn bladder spasm
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-10**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 79 (74 - 90) bpm
   BP: 93/63(70) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,846 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,088 mL
                                                                     50 mL
   Blood products:
                                                                    758 mL
   Total out:
                                                                  3,990 mL
                                                                    970 mL
   Urine:
                                                                  3,990 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,144 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   124 K/uL
   90 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.9 mEq/L
   32 mg/dL
   113 mEq/L
   142 mEq/L
   30.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2197-2-9**]  02:24 AM
                             [**2197-2-9**]  02:34 AM
                             [**2197-2-9**]  03:58 AM
                             [**2197-2-9**]  05:18 AM
                             [**2197-2-9**]  05:38 AM
                             [**2197-2-9**]  08:50 AM
                             [**2197-2-9**]  02:04 PM
                             [**2197-2-9**]  06:07 PM
                             [**2197-2-10**]  12:45 AM
                             [**2197-2-10**]  06:06 AM
   WBC
   7.1
   6.4
   Hct
   25.9
   29.8
   31.1
   30.5
   30.5
   30.8
   30.5
   Plt
   123
   124
   Cr
   1.3
   TropT
   0.03
   0.03
   TCO2
   27
   26
   26
   Glucose
   90
   Other labs: PT / PTT / INR:12.5/27.4/1.1, CK / CKMB /
   Troponin-T:22/4/0.03, Differential-Neuts:73.7 %, Lymph:16.9 %, Mono:6.4
   %, Eos:2.3 %, Fibrinogen:447 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 UGIB due to duodenal ulcers
   -Hct remains stable, check q8hr CBC and active type and screen
   -[**Hospital1 **] PPI, can change to oral
   -advance diet
   -troponin peak at 0.03, do not need to further trend cardiac enzymes
   -chest pain resolved
   -hold ASA
Hypertension
   -labetalol 10mg IV x1 now fro SBP 170s then resume home metoprolol 25mg
   daily with lisnopril 5mg daily
[**Last Name (un) 461**]
s gangrene
   -finishing course of levaquin until [**2196-2-13**]
   ICU Care
   Nutrition: advance diet to clear liquids
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2197-2-8**] 06:47 PM
   16 Gauge - [**2197-2-8**] 06:51 PM
   Arterial Line - [**2197-2-9**] 08:02 AM, will remove today
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: Protonix [**Hospital1 **]
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : call out to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, hematocrit remained stable and no signs of bleeding.  Has
   some mild hypoxia
   Vitals as above
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Scrotum: well-healing wound
   Labs as above
   CXR: mild pulmonary congestion
   Assessment:
   1)       Anemia (GI bleed)
   2)       Hypoxia: likely secondary pulmonary congestion from
   resuscitation in combination with AS
   Plan:
   1)       Continue serial hematocrits
   2)       Allow auto-diuresis at this time as oxygenation improving and
   good urine output
   Addendum: Patient just had melenonic stool -> will hold in ICU and make
   GI and surgery aware.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2197-2-10**] 01:45 PM ------

2197-02-11 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8807**] is a 67 year-old man with a history of a
   large infrarenal AAA with bilateral large common iliac aneurysms, s/p
   right hypogastric coiled embolization on [**2197-1-17**], who presents with
   hematemesis and is admitted to the MICU for further management.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2197-2-10**] 10:30 AM
   [**2-9**]
   -- HCT remained stable; no further episodes of bleeding
   -- switched from ppi gtt to ppi [**Hospital1 **] IV
   -------------------------------------
   [**2-10**]
   -- had initially been called out, but passed 500cc of melenotic stool.
   Hct / BP stable, but held in unit overnight to make sure not continue
   to drop.  Likely hold blood moving through.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2197-2-11**] 12:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2197-2-11**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 71 (71 - 90) bpm
   BP: 123/86(94) {104/54(66) - 132/94(101)} mmHg
   RR: 17 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    230 mL
                                                                    100 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                     60 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    970 mL
   Urine:
                                                                  2,545 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,315 mL
                                                                   -870 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   137 K/uL
   10.8 g/dL
   96 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.7 mEq/L
   18 mg/dL
   105 mEq/L
   141 mEq/L
   31.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2197-2-9**]  05:18 AM
                             [**2197-2-9**]  05:38 AM
                             [**2197-2-9**]  08:50 AM
                             [**2197-2-9**]  02:04 PM
                             [**2197-2-9**]  06:07 PM
                             [**2197-2-10**]  12:45 AM
                             [**2197-2-10**]  06:06 AM
                             [**2197-2-10**]  12:38 PM
                             [**2197-2-10**]  08:12 PM
                             [**2197-2-11**]  04:26 AM
   WBC
   7.1
   6.4
   6.5
   Hct
   29.8
   31.1
   30.5
   30.5
   30.8
   30.5
   33.2
   30.4
   31.1
   Plt
   123
   124
   137
   Cr
   1.3
   1.3
   1.3
   TropT
   0.03
   0.03
   TCO2
   26
   Glucose
   90
   82
   96
   Other labs: PT / PTT / INR:12.5/27.4/1.1, CK / CKMB /
   Troponin-T:22/4/0.03, Differential-Neuts:73.7 %, Lymph:16.9 %, Mono:6.4
   %, Eos:2.3 %, Fibrinogen:447 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8807**] is a 67 year-old man with a history of a large infrarenal
   AAA with bilateral large common iliac aneurysms, s/p right hypogastric
   coiled embolization on [**2197-1-17**], who presents with hematemesis and is
   admitted to the MICU for further management.
   # GIB: Likely upper GIB but would also consider brisk lower bleed.
   Differential diagnosis includes ulcerative disease, gastritis, AVM,
   Dieulafoy lesion, and bowel carcinoma.  No evidence of aortoenteric
   fistula on abd CT.  Received 2u PRBC and 2u FFP in ED and had chest
   pain/T wave changes on EKG consistent with ischemia.
   - tranfuse additional 2 units on arrival to floor
   - Hct goal of 30, transfused platelets given ASA history
   - 3 PIVs in place
   - hold on FFP transfusion pending coags recheck
   - GI plans to scope tonight
   - continue PPI gtt
   - check hct q4h
   - gen [**Doctor First Name 91**] and IR c/s
   - trend ionized calcium
   - f/u final abd CT read
   - vascular reccs
   # CAD s/p PCI:  Likely demand ischemia in setting of anemia, CP now
   resolved.
   - GIB mgmnt as above
   - cycle CEs
   - restart metoprolol when stable
   - cont statin
   - hold aspirin
   # Infrarenal AAA with b/l common iliac aneurysms: No evidence of
   aorto-enteric fistula. R hypogastric (internal iliac artery) coiled
   embolization on [**2197-1-17**]
   - vascular reccs
   - restart metoprolol when stable
   # Fournier's Gangrene: Had periurethral abscesses requiring operative
   debridment and suprapubic urinary catheter placement [**2197-1-10**].
   - cont levoflox for 10 day course ([**Date range (1) 11092**])
   - notify urology of admission
   # Hypertension:
   - restart metoprolol when stable
   # DM:
   - HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-2-10**] 12:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: